US04038311
99 parts of acetone isopropylimine and 94 parts of triethylamine are dissolved in 400 parts of methylene chloride, and the whole reacted with 120 parts of phosgene at a temperature of 30° to 40° C., as described in Example 1. After isolation, 131 parts (81% of the theory) of N-isopropenyl-N-isopropylcarbamyl chloride is obtained having a boiling point of 69° C. at 3 mm.

reactant | acetone isopropylimine | C(C)(C)N=C(C)C | C6H13N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-isopropenyl-N-isopropylcarbamyl chloride | C(=C)(C)N(C(=O)Cl)C(C)C | C7H12ClNO
